US06423854B1
N-Ethylaminocarbonyl-4-aminophenol
10 g of 4-aminophenol (Mw=109.13; 0.0916 mol) are suspended in 100 cm3 of anhydrous N-methylpyrrolidone, under an inert atmosphere. 6.5 g of ethyl isocyanate (Mw=71.08; 0.0914 mol) are then added dropwise. The reaction mixture is brought to a temperature of 60° C. with stirring for two hours. The mixture is poured into one litre of water and the precipitate is then filtered off and dried. After recrystallization from ethanol, 9 g of a white powder are obtained, which corresponds to a yield of 55%. The melting point of the product obtained is 173.4° C. The 200 MHz 1H NMR spectrum and the elemental analysis are in accordance with the expected product.

reactant | 4-aminophenol | 0.0916 mol, 10 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | ethyl isocyanate | 0.0914 mol, 6.5 g | C(C)N=C=O | C3H5NO
reactant | water | one litre | O | H2O
solvent | N-methylpyrrolidone | 100 cm3 | CN1C(CCC1)=O | C5H9NO
product | N-Ethylaminocarbonyl-4-aminophenol | yield of 55% | C(C)NC(=O)NC1=CC=C(C=C1)O | C9H12N2O2
